US05059607
Synthesis of 3-(2-naphthyl)acrylic acid
A solution of 2-naphthylaldehyde (3 g), piperidine (0.49 ml) and malonic acid (4.0 g) in pyridine (15 ml) was stirred for 2 hrs at 120° C. After cooling, the solution was acidified with conc. sulphuric acid. The solution was extracted with EtOAc. The oily layer was washed, dried, and evaporated to give the title compound (3.6 g) having the following physical data:

reactant | piperidine | 0.49 ml | N1CCCCC1 | C5H11N
reactant | malonic acid | 4.0 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-naphthyl)acrylic acid | 3.6 g | C1=C(C=CC2=CC=CC=C12)C=CC(=O)O | C13H10O2
